US03947470
A mixture of 35.5 g. (0.18 mol.) of 5-bromobenzofuran, 45.2 g. (0.18 mol.) of benzoic anhydride, 24.4 g. (0.20 mol.) of benzoic acid and 5 g. (0.05 mol.) of phosphoric acid is refluxed for 4 hours then stirred at 25° for 12 hours. The reaction mixture is basicified with 10% aqueous sodium hydroxide, chloroform is added to the mixture and the layers are separated. The organic phase is washed with water, dried (MgSO4) and concentrated under reduced pressure to give 2-benzoyl-5-bromobenzofuran.

reactant | 5-bromobenzofuran | 0.18 mol | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
reactant | benzoic anhydride | 0.18 mol | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | benzoic acid | 0.20 mol | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | phosphoric acid | 0.05 mol | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-benzoyl-5-bromobenzofuran | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1)C=C(C=C2)Br | C15H9BrO2
